US07323475B2
a. 4-Hydroxy-1-methyl-7-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carboxylic acid butyl ester
Prepared in analogy to Example D-157 d) from 4-hydroxy-1-chloro-7-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carboxylic acid butyl ester (of Example D-92 f). MS-(+)-ion M+1=420.2.

reactant | D-157 | C=1C=CC(=CC1)C(C=2C=CC=CC2)[C@@H]3CC(C(CO3)NCCC=4C=CC(=CC4)F)O | C26H28FNO2
reactant | 4-hydroxy-1-chloro-7-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)C(F)(F)F)Cl | C21H17ClF3NO4
product | 4-Hydroxy-1-methyl-7-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)C(F)(F)F)C | C22H20F3NO4
